US04547501
(c) Preparation of 4,7-dichloro-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline
In a flame-dried reaction flask under a dry nitrogen atmosphere, there were placed 5.1 g. (0.02 mole) of 7-chloro-1-ethyl-4-hydroxy-[1,2,4]triazolo[4,3-a]quinoxaline and 75 ml. of phosphorus oxychloride together with 5 ml. of tri-n-propylamine. The reaction mixture was then refluxed overnight for approximately 16 hours and finally cooled to room temperature prior to being slowly poured over ice/water. The resulting aqueous mixture was next stirred at room temperature for 15 minutes and filtered, and the solid product so obtained was subsequently washed with cold water and air-dried to constant weight to ultimately afford 4.2 g. (79%) of pure 4,7-dichloro-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline, m.p. 217°-220° C. (decomp.). Mass Spectrum: m/e, 266 (P); m/e, 268 (P+2); m/e, 265 (P-1).

reactant | 7-chloro-1-ethyl-4-hydroxy-[1,2,4]triazolo[4,3-a]quinoxaline | 0.02 mole | ClC=1C=C2N=C(C=3N(C2=CC1)C(=NN3)CC)O | C11H9ClN4O
reactant | phosphorus oxychloride | P(=O)(Cl)(Cl)Cl | Cl3OP
reactant | tri-n-propylamine | C(CC)N(CCC)CCC | C9H21N
product | 4,7-dichloro-1-ethyl-[1,2,4]triazolo[4,3-a]quinoxaline | ClC=1C=2N(C3=CC=C(C=C3N1)Cl)C(=NN2)CC | C11H8Cl2N4
